US06090833
2-Phenyl-6-(2,2,2-trifluoroethoxy)-8,8a-dihydroindeno[1,2-d]thiazol-3a-ol hydrobromide
This compound is prepared analogously to the process described in Example 1c using 2-bromo-5-(2,2,2-trifluoroethoxy)indan-1-one and thiobenzamide; melting point: 240-246° C.

reactant | 2-bromo-5-(2,2,2-trifluoroethoxy)indan-1-one | BrC1C(C2=CC=C(C=C2C1)OCC(F)(F)F)=O | C11H8BrF3O2
reactant | thiobenzamide | C(C1=CC=CC=C1)(=S)N | C7H7NS
product | 2-Phenyl-6-(2,2,2-trifluoroethoxy)-8,8a-dihydroindeno[1,2-d]thiazol-3a-ol hydrobromide | Br.C1(=CC=CC=C1)C=1SC2C(N1)(C=1C=CC(=CC1C2)OCC(F)(F)F)O | InChI=1S/C18H14F3NO2S.BrH/c19-17(20,21)10-24-13-6-7-14-12(8-13)9-15-18(14,23)22-16(25-15)11-4-2-1-3-5-11;/h1-8,15,23H,9-10H2;1H
